US08420825B2
2-{4-(2-({(2-(4-Chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl N-(tert-butoxycarbonyl)-L-leucinate
0.89 g (3.82 mmol) of N-(tert-butoxycarbonyl)-L-leucine were initially charged in 10 ml of DMF, and 0.81 g (4.18 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 0.80 g (5.23 mmol) of 1-hydroxy-1H-benzotriazole hydrate and 1.13 g (8.71 mmol) of N,N-diisopropylethylamine were added. The mixture was stirred until a clear solution had been obtained. 1.00 g (1.74 mmol) of 2-({(2-(4-chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-4-(4-(2-hydroxyethoxy)phenyl)-6-(pyrrolidin-1-yl)pyridine-3,5-dicarbonitrile was then added, and the mixture was stirred at room temperature for 18 h. The mixture was added to 300 ml of water. The residue formed was filtered off with suction and washed with 50 ml of water. The crude product was dissolved in 50 ml of dichloromethane. The aqueous phase was separated off and the organic phase was dried over sodium sulfate. Removal of the solvent under reduced pressure gave 1.37 g (100% of theory) of the desired target compound.

reactant | N-(tert-butoxycarbonyl)-L-leucine | 3.82 mmol, 0.89 g | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O | C11H21NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 4.18 mmol, 0.81 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-1H-benzotriazole hydrate | 5.23 mmol, 0.80 g | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 8.71 mmol, 1.13 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-({(2-(4-chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-4-(4-(2-hydroxyethoxy)phenyl)-6-(pyrrolidin-1-yl)pyridine-3,5-dicarbonitrile | 1.74 mmol, 1.00 g | ClC1=CC=C(C=C1)C=1SC=C(N1)CSC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)OCCO)C#N)N1CCCC1 | C29H24ClN5O2S2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 300 ml | O | H2O
product | 2-{4-(2-({(2-(4-Chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl N-(tert-butoxycarbonyl)-L-leucinate | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)OCCOC1=CC=C(C=C1)C1=C(C(=NC(=C1C#N)N1CCCC1)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl)C#N | C40H43ClN6O5S2
